US08022063B2
[3′,5′-Difluoro-3-(1-phenyl-1H-pyrazole-4-carbonyl)biphenyl-4-yloxy]acetic acid.
Prepared ethyl [4-bromo-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetate and 3,5-difluorophenylboronic acid according to GP4: LC/MS (an10n8): Rt 3.03 min, m/z 434.5 [M+H]+; 1H NMR (CDCl3): δ 4.85 (s, 2H), 6.81 (td, J=8.9, 2.3 Hz, 1H), 7.07 (d, J=8.3 Hz, 2H), 7.14 (d, J=8.9 Hz, 1H), 7.41 (d, J=6.6 Hz, 1H), 7.48 (s, 1H), 7.52 (d, J=8.5 Hz, 1H), 7.66-7.78 (m, 4H), 8.23 (s, 1H), 8.57 (s, 1H)

reactant | ethyl [4-bromo-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetate | BrC1=CC(=C(OCC(=O)OCC)C=C1)C(=O)C=1C=NN(C1)C1=CC=CC=C1 | C20H17BrN2O4
reactant | 3,5-difluorophenylboronic acid | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
product | [3′,5′-Difluoro-3-(1-phenyl-1H-pyrazole-4-carbonyl)biphenyl-4-yloxy]acetic acid | FC=1C=C(C=C(C1)F)C1=CC(=C(C=C1)OCC(=O)O)C(=O)C=1C=NN(C1)C1=CC=CC=C1 | C24H16F2N2O4
